US07592373B2
1.33.a. 1-(4-trimethylsilanylethynylbenzyl)pyrrolidine
A reaction mixture of 1 g (3.48 mmol) of 1-(4-iodobenzyl)pyrrolidine, 5 mL of piperidine, 105 mg (0.091 mmol) of tetrakistriphenylphosphine palladium, and 10 mg (0.053 mmol) of copper (I) iodide is cooled to 0° C. At this temperature, 0.59 mL (4.18 mmol) of trimethylsilylacetylene is added dropwise and then the cooling bath is removed. It is stirred for 3 hours at ambient temperature, then combined with a saturated aqueous ammonium chloride solution, and extracted with dichloromethane. The organic phase is dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate (1:1)). Yield: 0.75 g (83.6% of theory); C16H23NSi (M=257.45); calc.: molecular ion peak (M+H)+: 258; found: molecular ion peak (M+H)+: 258.

reactant | 1-(4-iodobenzyl)pyrrolidine | 3.48 mmol, 1 g | IC1=CC=C(CN2CCCC2)C=C1 | C11H14IN
reactant | piperidine | 5 mL | N1CCCCC1 | C5H11N
reactant | trimethylsilylacetylene | 4.18 mmol, 0.59 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | copper (I) iodide | 0.053 mmol, 10 mg | [Cu]I
product | 1-(4-trimethylsilanylethynylbenzyl)pyrrolidine | C[Si](C)(C)C#CC1=CC=C(CN2CCCC2)C=C1 | C16H23NSi
